US06537994B2
4-[(2S)-3-(2-{4-[2-(2-Cyclopentyl-ethyl)-imidazo[4,5-b]pyridin-3-yl]-phenyl}-ethylamino)-2-hydroxy-propoxy]-phenol
4-[2-(2-Cyclopentylethyl)-3H-imidazo[4,5-b]pyridin-3-yl]phenethylamine (0.22 g, 0.658 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.266 g, 0.656 mmol) according to Procedure G (eluant: 20:1 going to 5:1 chloroform-methanol) to give the title compound (0.209 g, 0.283 mmol).

reactant | 4-[2-(2-Cyclopentylethyl)-3H-imidazo[4,5-b]pyridin-3-yl]phenethylamine | 0.658 mmol, 0.22 g | C1(CCCC1)CCC1=NC=2C(=NC=CC2)N1C1=CC=C(CCN)C=C1 | C21H26N4
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.656 mmol, 0.266 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-[(2S)-3-(2-{4-[2-(2-Cyclopentyl-ethyl)-imidazo[4,5-b]pyridin-3-yl]-phenyl}-ethylamino)-2-hydroxy-propoxy]-phenol | 0.283 mmol, 0.209 g | C1(CCCC1)CCC1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C30H36N4O3
